US07666868B2
A4. (E)-3-{1-[4-(1-Methyl-1H-pyrazol-4-yl)-benzenesulfonyl]-1H-pyrrol-3-yl}-N-(tetrahydro-pyran-2-yloxy)-acrylamide
(E)-3-[1-(4-Bromo-benzenesulfonyl)-1H-pyrrol-3-yl]-N-(tetrahydro-pyran-2-yloxy)-acrylamide (966 mg) and 1-methyl-4-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-1H-pyrazole (662 mg) are dissolved in DME (35 mL) and (Ph3P)3PdCl2 (298 mg) and 2M Na2CO3-solution (3.2 mL) are added. The mixture is heated 16 h to reflux temperature. The mixture is filtered and evaporated and the crude product is purified by silica gel flash chromatography.

reactant | (E)-3-[1-(4-Bromo-benzenesulfonyl)-1H-pyrrol-3-yl]-N-(tetrahydro-pyran-2-yloxy)-acrylamide | 966 mg | BrC1=CC=C(C=C1)S(=O)(=O)N1C=C(C=C1)/C=C/C(=O)NOC1OCCCC1 | C18H19BrN2O5S
reactant | 1-methyl-4-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-1H-pyrazole | 662 mg | CN1N=CC(=C1)B1OC(C(O1)(C)C)(C)C | C10H17BN2O2
reactant | Na2CO3 | 2M, 3.2 mL | C(=O)([O-])[O-].[Na+].[Na+]
solvent | DME | 35 mL | COCCOC | C4H10O2
product | (E)-3-{1-[4-(1-Methyl-1H-pyrazol-4-yl)-benzenesulfonyl]-1H-pyrrol-3-yl}-N-(tetrahydro-pyran-2-yloxy)-acrylamide | CN1N=CC(=C1)C1=CC=C(C=C1)S(=O)(=O)N1C=C(C=C1)/C=C/C(=O)NOC1OCCCC1 | C22H24N4O5S
